US04640707
A solution of 6-fluoro-2(3H)-benzoxazolone (1.0 g) in 80% aqueous sulfuric acid (6.5 g) was cooled to 0° to 5° C., and 60% nitric acid (0.8 g) was gradually added thereto at 0° to 5° C. The resultant mixture was stirred at the same temperature for 30 minutes and poured onto ice water. The precipitated crystals were collected by filtration, washed with water and dried to give 6-fluoro-5-nitro-2(3H)-benzoxazolone (1.1 g). m.p., 175.4° C.

reactant | 6-fluoro-2(3H)-benzoxazolone | 1.0 g | FC1=CC2=C(NC(O2)=O)C=C1 | C7H4FNO2
reactant | nitric acid | 0.8 g | [N+](=O)(O)[O-] | HNO3
solvent | sulfuric acid | 6.5 g | S(O)(O)(=O)=O | H2O4S
product | 6-fluoro-5-nitro-2(3H)-benzoxazolone | 1.1 g | FC1=CC2=C(NC(O2)=O)C=C1[N+](=O)[O-] | C7H3FN2O4
